US04109088
After adding dropwise 2.1 g. of bromoacetyl bromide to a mixture of 2.63 g. of 3-isopropylamino-1-(1-oxo-5-indanyloxy)-2-propanol, 50 ml. of methylene chloride, and 1.2 g. of triethylamine with stirring under ice-cooling, the mixture was stirred for 18 hours at room temperature and then methylene chloride was distilled off. To the residue formed were added 50 ml. of benzene and 50 ml. of water to dissolve the residue and then the benzene layer was separated from the system, washed twice each with 30 ml. of water, and dried over anhydrous magnesium sulfate. Then, benzene was distilled off and then 50 ml. of methanol having dissolved therein 0.3 g. of metallic sodium was added to the residue followed by reflux for 3 hours. Then, methanol was distilled off and to the residue were added 50 ml. of benzene and 30 ml. of water to dissolve the residue. The benzene layer formed was recovered, washed twice each with 20 ml. of water, and adsorbed on a silica gel column prepared from 50 ml. of silica gel in 100 ml. of chloroform. The residue was then eluted using ethyl acetate as the eluent and after removing the first 50 ml. of the ethyl acetate eluate emerging from the column, 100 ml. of the subsequent ethyl acetate eluate was collected and dried to provide 2.1 g. (yield 69.2%) of 4-isopropyl-5-oxo-2-(1-oxo-5-indanyloxymethyl)morpholine.

reactant | bromoacetyl bromide | BrCC(=O)Br | C2H2Br2O
reactant | 3-isopropylamino-1-(1-oxo-5-indanyloxy)-2-propanol | C(C)(C)NCC(COC=1C=C2CCC(C2=CC1)=O)O | C15H21NO3
reactant | methylene chloride | C(Cl)Cl | CH2Cl2
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | water | O | H2O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 4-isopropyl-5-oxo-2-(1-oxo-5-indanyloxymethyl)morpholine | yield 69.2% | C(C)(C)N1CC(OCC1=O)C(=O)OC=1C=C2CCCC2=CC1 | C17H21NO4
